US08198453B2
tert-Butyl (S)-1-cyano-2-((R)-tetrahydro-2H-pyran-3-yl)ethyl(methyl)carbamate (397 mg, 4:1 mixture of diastereomers at the alpha-amino stereocenter) was dissolved in a solution of 4M NH3 in MeOH (15 mL) and passed through a Raney-nickel cartridge (CatCart®, 50 mm) on an in-line hydrogenation apparatus (H-Cube) with the following settings: ambient temperature (14° C.), flow rate 1.0 mL/min, H2 pressure 30 atm. The solution was recirculated so that the product solution was fed back into the apparatus. After thirty minutes, TLC analysis (1:9 MeOH/CH2Cl2, KMnO4 stain) showed complete conversion of the starting material. After 60 min total reaction time, the solution was evaporated to yield 371 mg (92%) of tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(methyl)carbamate as a clear, rose-colored oil. LC-MS (ELSD) m/e 273.6 (M+H)+.

reactant | tert-Butyl (S)-1-cyano-2-((R)-tetrahydro-2H-pyran-3-yl)ethyl(methyl)carbamate | C(#N)[C@H](C[C@@H]1COCCC1)N(C(OC(C)(C)C)=O)C | C14H24N2O3
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
solvent | NH3 | 4M | N | H3N
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Raney-nickel | [Ni] | Ni
product | tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(methyl)carbamate | 371 mg, 92% | NC[C@H](C[C@@H]1COCCC1)N(C(OC(C)(C)C)=O)C | C14H28N2O3
